US07943652B2
Step d: Preparation of 2-(1-hydroxy-1-methyl-ethyl)-pyrazolo[1,5-a]pyridine-3-carbaldehyde
To a solution of 2-(3-hydroxymethyl-pyrazolo[1,5-a]pyridin-2-yl)-propan-2-ol (1.8 g, 7.42 mmol) in tetrahydrofuran (60 mL) under nitrogen atmosphere was added manganese (IV) oxide (5.22 g, 60 mmol) and the mixture was heated to 65° C. for 40 h. The mixture was filtered through a Celite pad, which was washed with excess dichloromethane. The filtrates were combined and concentrated in vacuo and the residue was purified via silica gel column chromatography (0-40% ethyl acetate in heptane) to give the title compound (1.01 g, 4.95 mmol, 67% yield) as a light yellow solid.

reactant | 2-(3-hydroxymethyl-pyrazolo[1,5-a]pyridin-2-yl)-propan-2-ol | 7.42 mmol, 1.8 g | OCC=1C(=NN2C1C=CC=C2)C(C)(C)O | C11H14N2O2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
catalyst | manganese (IV) oxide | 60 mmol, 5.22 g | [O-2].[Mn+4].[O-2]
product | 2-(1-hydroxy-1-methyl-ethyl)-pyrazolo[1,5-a]pyridine-3-carbaldehyde | 4.95 mmol, 1.01 g, 67% yield | OC(C)(C)C1=NN2C(C=CC=C2)=C1C=O | C11H12N2O2
